.title kicad schematic

.include NMOS-180nm.lib
.include PMOS-180nm.lib
vinp1 vinp nodep  ac 1 0
m6 sourcetail vbcas msd gnd CMOSN W=10u L=2u M=1
vbcas1 vbcas gnd  dc 1
m1 drainl vinp sourcetail gnd CMOSN W=20u L=1u M=1
vinpb1 nodep gnd  dc 0.9
m3 drainl drainl vdd vdd CMOSP W=40u L=1u M=1
vdd1 vdd gnd  dc 1.8
m5 msd vbias gnd gnd CMOSN W=10u L=2u M=1
itail1 gnd sourcetail  dc 15.44u
* u1 out plot_db
cl1 out gnd 5p
m4 out drainl vdd vdd CMOSP W=40u L=1u M=1
m2 out vinn sourcetail gnd CMOSN W=20u L=1u M=1
vinn1 vinn noden  ac 1 180
vinnb1 noden gnd  dc 0.9
vbias1 vbias gnd  dc 0.8
.ac dec 100 10Hz 100Meg

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(out)
.endc
.end
