.title kicad schematic

.include PMOS-180nm.lib
.include NMOS-180nm.lib
* u1 out plot_v1
m4 out m34g vdd vdd CMOSP W=100u L=100u M=1
m2 out vinn m125ds gnd CMOSN W=100u L=100u M=1
vdd1 vdd gnd  dc 1.8
m1 m34g vinp m125ds gnd CMOSN W=100u L=100u M=1
m3 m34g m34g vdd vdd CMOSP W=100u L=100u M=1
vbias1 vbias gnd  dc 0.8
vinp1 vinp gnd  dc 0.9
vinn1 vinn gnd  dc 0.9
m5 m125ds vbias gnd gnd CMOSN W=100u L=100u M=1
.op

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
